US06818780B2
Preparation of Methyl 2-bromomethyl-2-butenoate
8.0 g (46 mmoles) of N-bromosuccinimide were dissolved in 60 ml of dry dichloromethane and were cooled to 0° C. To the mixture were added drop by drop 4 ml (50 mmoles) of dimethyl sulphide dissolved in 40 ml of chloromethane. The mixture was stirred for 10 minutes at 0° C. At the end of that time 5.46 (42 mmoles) of a solution of methyl 3-hydroxy-2-methylidene-butanoate in 40 ml of dichloromethane were slowly added to it. The resulting suspension was stirred for 24 hours at room temperature until a transparent solution was obtained. To this mixture was added n-hexane (100 ml) and it was poured into a separating funnel containing 200 ml of a saturated solution of sodium chloride and ice. The organic phase was washed with 100 ml of a saturated solution of sodium chloride. The aqueous phases were extracted with diethyl ether (2×100 ml), they were washed with water (3×100 ml) and they were dried over anhydrous sodium sulphate. They were vacuum concentrated giving 7.45 g (92% yield) of a syrupy liquid of methyl 2-bromomethyl-2-butanoate.

reactant | N-bromosuccinimide | 46 mmoles, 8.0 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | dimethyl sulphide | 50 mmoles, 4 ml | CSC | C2H6S
reactant | methyl 3-hydroxy-2-methylidene-butanoate | OC(C(C(=O)OC)=C)C | C6H10O3
reactant | sodium chloride | [Cl-].[Na+]
solvent | dichloromethane | 60 ml | ClCCl | CH2Cl2
solvent | chloromethane | 40 ml | ClC | CH3Cl
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
solvent | n-hexane | 100 ml | CCCCCC | C6H14
product | Methyl 2-bromomethyl-2-butenoate | 7.45 g, 92% yield | BrCC(C(=O)OC)=CC | C6H9BrO2
